US08466289B2
Synthesis of the Title Compound: 1-(2,3-Dihydroxy-propyl)-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide (5A)
Concentrated HCl (3 mL) was added to a stirred solution of 8-[1-(2,3-dihydroxy-propyl)-cyclopropanesulfonylamino]-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (80 mg) in THF (5 mL). The resulting mixture was stirred at 40° C. for 2 hours. The reaction was monitored by TLC (15% MeOH in CHCl3). The reaction mixture was concentrated and partitioned between ethylacetate and water. The organic layer was washed with saturated NaHCO3 solution and concentrated to afford the crude product. Purification by column chromatography on silica gel (5% methanol in CHCl3), followed by preparative HPLC afforded 10 mg of the product (14.7% yield)

reactant | HCl | 3 mL | Cl | ClH
reactant | 8-[1-(2,3-dihydroxy-propyl)-cyclopropanesulfonylamino]-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 80 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)NS(=O)(=O)C2(CC2)CC(CO)O | C25H32FIN4O7S
reactant | MeOH | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(2,3-Dihydroxy-propyl)-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide | 10 mg, 14.7% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCN2)NS(=O)(=O)C2(CC2)CC(CO)O | C20H24FIN4O5S
